US07943609B2
(11S)-2-(Benzyloxy)-11-isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (530 mg, 1.36 mmol) was dissolved in ethanol (50 mL) and the solution was placed in a pressure bottle. Palladium on carbon (10%, 220 mg) was added and the reaction mixture was shaken under H2 at 48 PSI (3.3×105 Pa) for 20 hours. The reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with 1:1 CH2Cl2/ethanol (200 mL) and the combined filtrates were concentrated under reduced pressure to give a white solid. Chromatography (SiO2, 30-50% CMA/CHCl3) gave (11S)-6-amino-11-isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol (240 mg) as a white powder, mp 208-210° C.

reactant | (11S)-2-(Benzyloxy)-11-isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 1.36 mmol, 530 mg | C(C1=CC=CC=C1)OC=1C=C2C3=C(C(=NC2=CC1)N)N=C1N3[C@H](COC1)C(C)C | C23H24N4O2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 220 mg | [Pd] | Pd
product | (11S)-6-amino-11-isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol | 240 mg | NC1=NC2=CC=C(C=C2C2=C1N=C1N2[C@H](COC1)C(C)C)O | C16H18N4O2
